US06900243B2
b) [3-(2,5-Dichlorophenoxy)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 3 step (b) but using 2,5-dichlorofluorobenzene and (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester.

reactant | 2,5-dichlorofluorobenzene | ClC1=C(C=C(C=C1)Cl)F | C6H3Cl2F
reactant | (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CCC | C12H25NO3
product | [3-(2,5-Dichlorophenoxy)hexyl]methylcarbamic Acid 1,1-dimethylethyl ester | CC(C)(C)OC(N(C)CCC(CCC)OC1=C(C=CC(=C1)Cl)Cl)=O | C18H27Cl2NO3
